US08871756B2
2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}ethanol
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2-aminoethanol. MS obsd. (ESI+) [(M+H)+] 398, 1H NMR (400 MHz, CD3OD) δ ppm 8.08 (d, J=7.6 Hz, 1 H), 7.91 (s, 1 H), 7.85 (d, J=7.6 Hz, 1 H), 7.74-7.67 (m, 2 H), 7.59-7.56 (m, 2 H), 6.09 (s, 1 H), 5.29 (s, 2 H), 4.51 (s, 2 H), 3.83 (t, J=5.6 Hz, 2 H), 3.74-3.72 (m, 2 H), 3.62 (t, J=5.6 Hz, 2 H), 2.47 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}ethanol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCO)C)=O | C21H23N3O3S
